* source AMP
X_U1         N14712 N14700 +12V 0 0 LM741/NS
R_R1         N14700 N14688 10k
V_V1         N14712 N14719   
** Floating/unmodeled pin fixups **
R__UC0001   N14688  0   {1/GMIN}
